US08067447B2
To solution of 4-bromobenzonitrile (182 mg, 1.0 mmol) in 5 mL of dry THF at −78° C. was added n-BuLi (0.7 mL of 1.6 M hexanes solution, 1.1 mmol). The reaction was stirred 30 min and then 1-(4-fluorophenyl)-1H-indazol-5-carboxaldehyde (240 mg, 1.0 mmol) was added and the reaction mixture was allowed to warm to RT. After 12 h, quenched with brine and extracted 2×EtOAc. The organic layers were dried over MgSO4, filtered, and concentrated. The residue was purified on SiO2 by MPLC eluting with a 0-30% EtOAc/hexane gradient to give 180 mg (52% yield) of 4-((1-(4-fluorophenyl)-1H-indazol-5-yl)(hydroxy)methyl)benzonitrile. MS found: (M+H)+=344.

reactant | 4-bromobenzonitrile | 1.0 mmol, 182 mg | BrC1=CC=C(C#N)C=C1 | C7H4BrN
reactant | n-BuLi | 1.1 mmol, 1.6 M, 0.7 mL | [Li]CCCC
reactant | 1-(4-fluorophenyl)-1H-indazol-5-carboxaldehyde | 1.0 mmol, 240 mg | FC1=CC=C(C=C1)N1N=CC2=CC(=CC=C12)C=O | C14H9FN2O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 4-((1-(4-fluorophenyl)-1H-indazol-5-yl)(hydroxy)methyl)benzonitrile | 180 mg, 52% yield | FC1=CC=C(C=C1)N1N=CC2=CC(=CC=C12)C(C1=CC=C(C#N)C=C1)O | C21H14FN3O
